US07741341B2
(i) 1,3-Dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purine-8-carboxylic acid
5.00 g (24.0 mmol) 8-Hydroxymethyl-1,3-dimethyl-3,7-dihydro-purine-2,6-dione were suspended in 15 mL water. 16.8 mL (33.6 mmol) of a 2 N NaOH-solution were added. The resulting mixture was cooled to 5° C. At that temperature a solution of 5.05 g (32.2 mmol) KMnO4 in 86 mL water was added. After stirring at room temperature for 4 h the reaction mixture was filtered over Celite. After addition of activated carbon the filtrate was again filtered over Celite. The filtrate was concentrated to a volume of 200 mL and 5 mL of conc. HCl-solution were added. After standing at 4° C. for 16 h the crystaline product was filtered off, washed twice with cold water and acetone and dried under reduced pressure at 40° C.

reactant | 8-Hydroxymethyl-1,3-dimethyl-3,7-dihydro-purine-2,6-dione | 24.0 mmol, 5.00 g | OCC1=NC=2N(C(N(C(C2N1)=O)C)=O)C | C8H10N4O3
reactant | NaOH | 2 N | [OH-].[Na+]
reactant | KMnO4 | 32.2 mmol, 5.05 g | [O-][Mn](=O)(=O)=O.[K+]
solvent | water | 15 mL | O | H2O
solvent | water | 86 mL | O | H2O
product | 1,3-Dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purine-8-carboxylic acid | CN1C(N(C=2N=C(NC2C1=O)C(=O)O)C)=O | C8H8N4O4
